US04282361
Preparation of 3-Methyl-7-n-Pentylaminopyrazolo [4,3-d]Pyrimidine
When n-pentylamine (7 g) was added to 7-chloro-3-methylpyrazolo[4,3-d]pyrimidine (6.13 g, 36 mmol), an exothermic reaction took place and the mixture heated itself to boiling. The cooled reaction mixture was triturarted with water (100 ml). The crude product crystallized and was filtered, washed with water and air-dried to give a quantitative crude yield of slightly yellow crystals. Recrystallization from ether and treatment with charcoal afforded the product, yield 5.0 g (63%), m.p. 157.5°-158.5°. An additional 1.24 g was recovered from the mother liquor as the maleinate. Total yield, 73.6%.

reactant | n-pentylamine | 7 g | C(CCCC)N | C5H13N
reactant | 7-chloro-3-methylpyrazolo[4,3-d]pyrimidine | 36 mmol, 6.13 g | ClC=1C2=C(N=CN1)C(=NN2)C | C6H5ClN4
solvent | water | 100 ml | O | H2O
product | 3-Methyl-7-n-Pentylaminopyrazolo [4,3-d]Pyrimidine | CC1=NNC2=C1N=CN=C2NCCCCC | C11H17N5
